US07365066B2
2-(Pyridin-2-yl)-3-(quinolin-4-yl)-pyrazolo[1,5-a]pyridine-5-carboxylic acid dimethylamide
Add trimethylaluminium (0.54 mL, 1.08 mmoL) dropwise to a solution of dimethylamine (0.45 mL, 0.90 mmoL) in methylene chloride (1 mL) at 0° C. Warm to room temperature and stir for 1 hour. Add 2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[1,5-a]pyridine-5-carboxylic acid ethyl ester (177 mg, 0.45 mmol) in methylene chloride (4 mL), and stir at room temperature for 1 hour and at 80° C. for 24 hours. Cool the reaction mixture to room temperature. Add aqueous solution of potassium sodium tartarate (20 mL) and stir the solution for 1 hour. Separate the organic layers and extract the aqueous solution with methylene chloride (2×20 mL). Dry the combined organic layers with sodium sulfate and concentrate. Purify by flash column chromatography (SiO2, 20-30% methanol/methylene chloride) to give the title compound 54 mg (31%) as a yellow solid.

reactant | trimethylaluminium | 0.54 mL | C[Al](C)C
reactant | dimethylamine | 0.45 mL | CNC | C2H7N
reactant | 2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[1,5-a]pyridine-5-carboxylic acid ethyl ester | 0.45 mmol, 177 mg | C(C)OC(=O)C1=CC=2N(C=C1)N=C(C2C2=CC=NC1=CC=CC=C21)C2=NC=CC=C2 | C24H18N4O2
reactant | potassium sodium tartarate | 20 mL | C(C(O)C(O)C(=O)[O-])(=O)[O-].[Na+].[K+]
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(Pyridin-2-yl)-3-(quinolin-4-yl)-pyrazolo[1,5-a]pyridine-5-carboxylic acid dimethylamide | 54 mg, 31% | CN(C(=O)C1=CC=2N(C=C1)N=C(C2C2=CC=NC1=CC=CC=C21)C2=NC=CC=C2)C | C24H19N5O
